US08138187B2
4-(2-(1H-Indol-3-yl)ethyl)morpholine (Ind-69)
Morpholine (2.33 g, 2.33 ml, 26.8 mmol) was dissolved in abs. dioxane (50 ml), and 3-(2-bromo-ethyl)-1H-indole (3.00 g, 13.4 mmol) was added at RT. The solution was stirred at 70° C. for 14 h and concentrated i. vac., the residue was taken up in CHCl3 (100 ml) and the mixture was washed with water (2×30 ml). The organic phase was dried over Na2SO4, filtered and concentrated i. vac. The residue obtained was recrystallized from aqueous methanol.

reactant | Morpholine | 26.8 mmol, 2.33 ml, 2.33 g | N1CCOCC1 | C4H9NO
reactant | 3-(2-bromo-ethyl)-1H-indole | 13.4 mmol, 3.00 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(2-(1H-Indol-3-yl)ethyl)morpholine | N1C=C(C2=CC=CC=C12)CCN1CCOCC1 | C14H18N2O
